US06951856B2
2-Phenyl-ethenesulfonic acid [6-(2-hydroxy-ethoxy)-5-p-tolyl-pyrimidin-4-yl]-amide (150 mg) was dissolved in THF (10 ml) and sodium hydride (45 mg; 55-65% in mineral oil) was added. The mixture was stirred for 15 min at rt., followed by the addition of DMF (2 ml) and 2-chloro-5-trifluoromethyl-pyridine (146 mg) and heating to 75° C. for 5 h. Then the reaction mixture was evaporated to dryness and water (15 ml) and citric acid was added. The precipitated product was filtered off, washed with water and dried. 2-Phenyl-ethenesulfonic acid {5-p-tolyl-6-[2-(5-trifluoromethyl-pyridin-2-yloxy)-ethoxy]-pyrimidin-4-yl}-amide (130 mg) could be obtained as a white powder. tR=5.92 (LC); [M+H]+=557.38 (ES+).

reactant | 2-Phenyl-ethenesulfonic acid [6-(2-hydroxy-ethoxy)-5-p-tolyl-pyrimidin-4-yl]-amide | 150 mg | OCCOC1=C(C(=NC=N1)NS(=O)(=O)C=CC1=CC=CC=C1)C1=CC=C(C=C1)C | C21H21N3O4S
reactant | sodium hydride | 45 mg | [H-].[Na+]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | 2-chloro-5-trifluoromethyl-pyridine | 146 mg | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-Phenyl-ethenesulfonic acid {5-p-tolyl-6-[2-(5-trifluoromethyl-pyridin-2-yloxy)-ethoxy]-pyrimidin-4-yl}-amide | 130 mg | C1(=CC=C(C=C1)C=1C(=NC=NC1OCCOC1=NC=C(C=C1)C(F)(F)F)NS(=O)(=O)C=CC1=CC=CC=C1)C | C27H23F3N4O4S
